US07592463B2
(2R, 5R)-3-Methyl-2,5-diphenyl-imidazolidin-4-one (Catalyst 3):
A solution of (R)-phenylglycine methyl amide (2.0 g, 12.2 mmol), benzaldehyde (990 μL, 9.7 mmol), and p-toluenesulfonic acid monohydrate (232 mg, 1.2 mmol) dissolved in 20 mL of methanol was heated to reflux for 16 hours. Concentration of the reaction mixture followed by silica gel chromatography (30-40% ethyl acetate in hexanes, linear gradient) afforded the title compound in 31% yield (750 mg, 3.0 mmol) and the more quickly eluting (2S, 5R) isomer in 58% yield (1.43 g, 5.7 mmol). IR (film) 3478, 3324, 3086, 3063, 3031, 2958, 2917, 2863, 1959, 1890, 1814, 1698, 1603, 1477, 1456, 1428, 1400, 1343, 1281, 1204, 1107, 1069, 1027, 985.9, 935.2, 916.7, 868.6, 834.7, 732.9, 698.1 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.41 (m, 10H, ArH), 5.33 (s, 1H, NCHN), 4.66 (s, 1H, CHCO), 2.65 (s, 3H, CH3), 2.46 (s, 1H, NH); 13C NMR (75 MHz, CDCl 3) δ 173.4, 139.0, 138.6, 129.8, 129.3, 128.9, 128.3, 128.0, 127.7, 77.3, 63.7, 28.0; HRMS (CI) exact mass calc'd for (C16H16N2O) requires m/z 252.1263, found m/z 252.1265. [α]D=−8.6 (c=1.0, CHCl3). The relative stereochemistry of catalyst 3 was confirmed by NOE studies.

reactant | (R)-phenylglycine methyl amide | 12.2 mmol, 2.0 g | C=1C=CC(=CC1)[C@H](C(=O)O)N.C[NH-]
reactant | benzaldehyde | 9.7 mmol, 990 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid monohydrate | 1.2 mmol, 232 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 mL | CO | CH4O
product | (2R, 5R)-3-Methyl-2,5-diphenyl-imidazolidin-4-one | 31% yield | CN1[C@@H](N[C@@H](C1=O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H16N2O
